US06107495
(±) 6-Chloro-1-phenyl-hexan-2-ol
13.1 g of 6-chloro-1-phenyl-hexan-2-one in 75 ml of ethanol is loaded into a 250 ml three-necked flask. The reaction medium is cooled down to -5° C. and a solution of sodium borohydride (2.18 g) in 15 ml of water is added over 5 minutes. Agitation is carried out for 2.5 hours at -5° C., the temperature is allowed to rise to 20° C. over 1 hour, followed by cooling down to -5° C. 110 ml of 0.14 M hydrochloric acid is then added. Agitation is carried out for 10 minutes, followed by extraction 3 times with 80 ml of methylene chloride, drying over magnesium sulphate, filtering and concentration. In this way, 12.3 g of expected product is obtained.

reactant | 6-chloro-1-phenyl-hexan-2-one | 13.1 g | ClCCCCC(CC1=CC=CC=C1)=O | C12H15ClO
reactant | sodium borohydride | 2.18 g | [BH4-].[Na+]
reactant | hydrochloric acid | 0.14 M, 110 ml | Cl | ClH
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | (±) 6-Chloro-1-phenyl-hexan-2-ol | 12.3 g | ClCCCCC(CC1=CC=CC=C1)O | C12H17ClO
